US06441196B2
A solution of 4-bromobutyric acid (50 g) in 2-propanol (200 mL) containing 1 mL of H2SO4 was refluxed for 3 h, then cooled to ambient temperature, diluted with ether (500 mL), washed with saturated NaHCO3 (3×300 mL), and brine (300 mL). The organic extract was dried (MgSO4), filtered and concentrated in vacuo to give isopropyl 4-bromo-butyrate (52 g) as an oil. This ester was dissolved in MeCN (380 mL). Ph3P (100 g) was added and the solution was heated at reflux for 72 h, after which TLC analysis (20% water/MeCN, C-18 RP TLC plates) showed complete reaction. The mixture was cooled and concentrated and the residue was slurried with toluene (400 mL) for 1 h. The solid was collected by filtration and was washed with toluene (100 mL) and then dried in vacuo at 50° C. to provide (3-(isopropoxycarbonyl)propyl)triphenylphosphonium bromide (100.6 g). 1H NMR (CDCl3): δ 1.19-1.22 (d, 6H), 1.85-1.97 (m, 2H), 2.85 (t, 2H), 2.85 (t, 2H), 3.95-4.10 (m, 2H), 4.89-5.03 (m, 1H), 7.65-7.94 (m, 15H).

reactant | 4-bromobutyric acid | 50 g | BrCCCC(=O)O | C4H7BrO2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | 2-propanol | 200 mL | CC(C)O | C3H8O
solvent | ether | 500 mL | CCOCC | C4H10O
product | isopropyl 4-bromo-butyrate | 52 g | BrCCCC(=O)OC(C)C | C7H13BrO2
